US07846960B2
3-(1-{4-[2-(2,6-Dichloro-phenyl)-4-isopropyl-2H-pyrazol-3-ylmethoxy]-2-methyl-phenyl}-ethylsulfanyl)-benzoic Acid Methyl Ester
To an ambient temperature solution of 1-{4-[2-(2,6-Dichloro-phenyl)-4-isopropyl-2H-pyrazol-3-ylmethoxy]-2-methyl-phenyl}-ethanol (75 mg, 1.78 mmol) in toluene (20 mL) are added 3-Mercapto-benzoic acid methyl ester (299 mg, 1.78 mmol) and tri-N-butylphosphine (668 μL, 2.68 mmol). The reaction mixture is cooled to 0° C. 1,1′-(Azocarbonyl)-dipiperidine (676 mg, 2.68 mmol) is added and the reaction mixture is warmed to room temperature overnight. The reaction mixture is concentrated and the residue is chromatographed (40 g SiO2, 0% to 30% EtOAc/Hexanes) to yield the title compound (541 mg, 54%). 1H NMR (400 MHz, CDCl3) δ 8.00-7.98 (m, 1H), 7.99 (t, 1H, J=1.8 Hz), 7.87 (dt, 1H, J=4.6, 2.5 Hz), 7.70 (s, 1H), 7.43-7.39 (m, 3H), 7.32-7.22 (m, 3H), 6.61-6.54 (m, 2H), 4.79 (s, 2H), 4.53 (q, 1H, J=7.0 Hz), 3.90 (s, 3H), 2.99 (sept, 1H, J=6.6 Hz), 2.32 (s, 3H), 1.56 (d, 3H, J=6.9 Hz), 1.30 (d, 6H, J=6.6 Hz).

reactant | 1-{4-[2-(2,6-Dichloro-phenyl)-4-isopropyl-2H-pyrazol-3-ylmethoxy]-2-methyl-phenyl}-ethanol | 1.78 mmol, 75 mg | ClC1=C(C(=CC=C1)Cl)N1N=CC(=C1COC1=CC(=C(C=C1)C(C)O)C)C(C)C | C22H24Cl2N2O2
reactant | 3-Mercapto-benzoic acid methyl ester | 1.78 mmol, 299 mg | COC(C1=CC(=CC=C1)S)=O | C8H8O2S
reactant | tri-N-butylphosphine | 2.68 mmol, 668 μL | CCCCP(CCCC)CCCC | C12H27P
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | 3-(1-{4-[2-(2,6-Dichloro-phenyl)-4-isopropyl-2H-pyrazol-3-ylmethoxy]-2-methyl-phenyl}-ethylsulfanyl)-benzoic Acid Methyl Ester | 541 mg, 54% | COC(C1=CC(=CC=C1)SC(C)C1=C(C=C(C=C1)OCC=1N(N=CC1C(C)C)C1=C(C=CC=C1Cl)Cl)C)=O | C30H30Cl2N2O3S
